* Z:\home\bhargava\ddp\SPICE\NOR.asc
M1 N001 Ainp Vdd Vdd CMOSP l=0.36u w=2.16u
M2 N002 Binp N001 N001 CMOSP l=0.36u w=2.16u
M3 N003 Cinp N002 N002 CMOSP l=0.36u w=2.16u
M4 N003 Binp 0 0 CMOSN l=1.08u w=0.36u
M5 N003 Cinp 0 0 CMOSN l=1.08u w=0.36u
M6 N003 Ainp 0 0 CMOSN l=1.08u w=0.36u
V1 Vdd 0 5
V2 Ainp 0 PULSE(0 5V 0 1us)
V3 Binp 0 0
V4 Cinp 0 0
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.mos
.tran 0 2us 0
.include level1MOS.lib
.option numdgt=10
.backanno
.end

